US07872028B2
To a solution of 3-(tetrahydro-pyran-4-yl)-propan-1-ol (11.8 g, 0.0825 mol) in CH2Cl2 (200 mL) was added Dess-Martin periodinane (70.27 g, 0.165 mol). The mixture was stirred at rt. When the reaction was complete, the solution was poured into Et2O (300 mL) and anhydrous K2CO3 (19.84 g, 0.165 mol) was added. The mixture was filtered. The filtrate was dried over Na2SO4, and concentrated under vacuum to give the crude product, which was purified by column chromatography to give 3-(tetrahydro-pyran-4-yl)-propionaldehyde (8.59 g, 83%). 1H NMR (CD3OD) δ 1.1-1.3 (m, 4H), 1.4-1.6 (m, 5H), 2.4-2.5 (t, 2H), 3.2-3.3 (m, 2H), 3.8-3.97 (m, 2H), 9.7-9.8 (s, 1H).

reactant | 3-(tetrahydro-pyran-4-yl)-propan-1-ol | 0.0825 mol, 11.8 g | O1CCC(CC1)CCCO | C8H16O2
reactant | Dess-Martin periodinane | 0.165 mol, 70.27 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Et2O | 300 mL | CCOCC | C4H10O
reactant | K2CO3 | 0.165 mol, 19.84 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-(tetrahydro-pyran-4-yl)-propionaldehyde | 8.59 g, 83% | O1CCC(CC1)CCC=O | C8H14O2
